US04441913
16.6 g of 1-benzyloxy-2-propanol and 10.6 g of triethylamine were dissolved in 200 ml of toluene, then cooled to 0° C. To this solution was dropwise added a solution of 34.7 g of 2-[4-(3,5-dichloro-2-pyridyloxy)phenoxy]propionyl chloride in 80 ml of toluene at 0° to 5° C. with stirring. After the dropwise addition, the mixture was gradually heated and, at 40° to 50° C., it was stirred for one hour to complete the reaction. After cooling to room temperature, it was washed successively with 1% strength by weight sodium hydroxide aqueous solution and water, followed by drying. Upon distilling off toluene under reduced pressure, there were obtained 43.3 g of pale yellow, viscous, oily 1-methyl-2-benzyloxyethyl 2-[4-(3,5-dichloro-2-pyridyloxy)phenoxy]propionate. nD20 1.5710.

reactant | 1-benzyloxy-2-propanol | 16.6 g | C(C1=CC=CC=C1)OCC(C)O | C10H14O2
reactant | triethylamine | 10.6 g | C(C)N(CC)CC | C6H15N
reactant | 2-[4-(3,5-dichloro-2-pyridyloxy)phenoxy]propionyl chloride | 34.7 g | ClC=1C(=NC=C(C1)Cl)OC1=CC=C(OC(C(=O)Cl)C)C=C1 | C14H10Cl3NO3
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 1-methyl-2-benzyloxyethyl 2-[4-(3,5-dichloro-2-pyridyloxy)phenoxy]propionate | ClC=1C(=NC=C(C1)Cl)OC1=CC=C(OC(C(=O)OC(COCC2=CC=CC=C2)C)C)C=C1 | C24H23Cl2NO5
